Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"stress"
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
The pt is a ___ F with no significant PMH and a PPHx of 
anxiety,
brought in by her boyfriend to ___ ___ with paranoia.

On interview the pt says that she took the bar on ___, which she describes as "stressful." She said that after 
the
bar she had a number of trips planned, first to ___ for a
wedding last ___, and then a 2-week trip to ___ on
___. She states, "I had trouble sleeping on the first flight
from ___ to ___, and I didn't get any sleep from ___ to
___ after that." She said she was "very nervous, there were a
lot of connections." She also describes being nervous to fly
alone. Pt said that she was "feeling uneasy" the whole time in
___. When asked about this, she says, "there was just so much
security there." She says, "there were security guards in 
___,
and then more in ___," we clarify that these security guards
were at the airport, but pt states, "I kept seeing them around."
She describes seeing them on the beach, wearing normal clothing,
but "I recognized their faces." She felt like "they were all
watching me, they were there to watch what I was doing." She 
said
their presence made her "very nervous." She felt like they
thought she "had done something wrong." She often returns to the
flight, stating, "I was cold," she describes the man next to her
giving her an extra blanket and goes on to say, "there were a
couple announcements over the loudspeaker, asking for a doctor,
and I kept expecting them to come over to check on me--I think
the messages were about me."

When asked about additional stressors, pt states, ___ ago I
was living in ___ and I went out for drinks with friends at a bar
in ___. I saw a fight. After that time, I got a lot of calls
from a particular area code. I never picked them up. A friend
called me and told me a detective was trying to reach me, so I
called him back. I told him I didn't remember the incident
because I was drunk at the time. I don't remember the incident."
She describes getting calls from this number during her trip to
___ as well. She is wondering if the people following her are
related to this incident. At times she also tells us that she
"didn't do anything at the bar, I really don't remember."

Pt does have a history of drinking 3-drinks a night, but has cut
down recently in the context of studying for the bar. She says
she only had 3 beers during her trip to ___. She denies any
drug use aside from a sleep aid she took on the plane, Alteril.

Pt endorses recent decreased sleep, "tossing and turning" and
difficulty maintaining sleep. She fixates on difficulty sleeping
on flight to ___ as well. She describes feeling some 
decreased
energy, but has not been waking up fatigued. She also notes
decreased concentration and memory problems since ___. She
denies SI/HI/AH/VH. She does not feel paranoid about people here
in the hospital. Patient also endorses occasional panic attacks,
and feeling anxious here in the hospital.

Collateral obtained:

Boyfriend, ___ (at bedside)
Says that his girlfriend was doing well, though she was stressed
about the bar, then she left for a wedding in ___ and
bachelorette party in ___. He got a call from her on ___
night at 6pm. She told him two men were following her in a white
van, parked outside of the villa where they were staying in
___. He was concerned about her safety, but then a friend 
got
on the phone and told him none of it was true. Said that ___
was acting strangely, very preoccupied about people following
her. He called her mother and they arranged for her return home.

Says pt is calmer now that she is home, but still seems anxious
about little things, preoccupied with small things. Says that
when he went to pick her up at ___ and it took her
2-hours to find her luggage. Says that she expressed to him that
she thought she had landed in ___, was too worried and scared
to ask anyone for help finding her luggage. He states that she
was in ___ the entire time. Says that she has not 
been
sleeping. He has also noticed that she has been shaking,
twitching. He says that she is usually incredibly outgoing,
social, but she has become terse and nearly unresponsive since
her return.

Mother, ___ (___)
States pt graduated from law school on ___. After that time
she was studying for the bar. This was very stressful for her
because she is not a good test-taker. Saw her 10-days after the
test in ___ for her cousin's wedding. Says that at wedding,
daughter was very stressed about her performance on the test,
worried she failed, worried that if she failed she would be
disappointing everyone--letting them down. She brought her
daughter to ___ to go to ___. Said she was anxious,
but speaking normally, anxious about little details of the trip,
connecting flights, etc. 

On ___ afternoon, she heard from daughter's boyfriend, ___
that she was acting strange. Mother called her friend who was
there who told her that her daughter was very worried that a
detective from ___ was trying to track her down. Said that she
started a fight at a bar and someone was badly hurt. She said
that there was a video of her starting the fight. She also said
there were people following her around from the airport. Her
mother tried to call a number provided by her friend that was
reportedly a detective's number. She tried to call it and it was
non-functioning. At that point her mother booked her a flight 
for
her return home. Says that since that time her daughter has
sounded very different to her, quiet, terse

Sister, ___ (___)
Says that she saw her sister on ___ at wedding in ___.
Says her sister "broke down" to her, said she was stressed after
the bar. Said she wasn't feeling like herself. She was worried
she was going to fail everyone. She had no concerns about
suicidality. She said she also noted that she was vomiting,
couldn't keep food down. At the time she thought she was
hungover. Noted that before the wedding there was an error with
appointments for a manicure. Said her sister had a really hard
time making a decision about getting a manicure, thought about 
it
"harder than another person," more overwhelmed by simple
decisions than usual. Also feeling more uncomfortable in social
situations, which sister said was incredibly unusual. She says
she saw her two weeks prior to the wedding and she seemed
slightly stressed, but fine, social, talkative.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
   Hospitalizations: denies
   Current treaters and treatment: denies; previously saw a
psychiatrist in ___ when she was experiencing stress as a
result of being in a long distance relationship, but has not 
seen
her in over a year
   Medication and ECT trials: denies
   Self-injury: denies
   Harm to others: denies
   Access to weapons: denies

PAST MEDICAL HISTORY:

denies
-currently plays football in a league with other law students,
denies loss of consciousness, concussions

 
Social History:
SUBSTANCE ABUSE HISTORY:

  -Tobacco: denies
  -ETOH: endorses drinking 3 drinks/day prior to studying for 
the
bar, recently only had 3 beers during trip to ___

FORENSIC HISTORY:

  Arrests: given citation for underaged drinking at ___, denies
any arrests
   Convictions and jail terms: denies
   Current status (pending charges, probation, parole): N/A

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:

denies known family history of psychotic disorders, depression,
anxiety

 
Physical Exam:
EXAM:  

VITAL SIGNS:
24 HR Data (last updated ___ @ 1630)
    Temp: 98.1 (Tm 98.1), BP: 120/86, HR: 89, RR: 18, O2 sat: 
96%

-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consensually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.
   
Mental Status:
-Appearance: Caucasian woman appearing stated age, well groomed,
dressed casually, in no acute distress
-Behavior: Sitting in chair, appropriate eye contact, no
psychomotor restlessness or slowing
-Attitude: Cooperative, engaged, calm
-Mood: "tired"
-Affect: Mood-congruent, somewhat constricted, reactive and
appropriate to situation
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia during this brief
interaction
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Fair
-Judgment: Fair

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYB with 0 errors
-Orientation: Oriented to person, time, place, situation
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Appropriately interprets "the grass is always
greener on the other side"
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

 

 
Pertinent Results:
___ 09:30AM   PLT COUNT-299
___ 11:20PM   HIV Ab-NEG
___ 08:00PM CEREBROSPINAL FLUID (CSF)  PROTEIN-19 
GLUCOSE-73
___ 08:00PM CEREBROSPINAL FLUID (CSF)  TNC-0 RBC-0 POLYS-0 
___ MACROPHAG-17
___ 09:30AM   GLUCOSE-88 UREA N-9 CREAT-0.7 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-22 ANION GAP-15
___ 09:30AM   estGFR-Using this
___ 09:30AM   ALT(SGPT)-12 AST(SGOT)-19 ALK PHOS-65 TOT 
BILI-0.5
___ 09:30AM   ALBUMIN-5.1 CALCIUM-10.7* PHOSPHATE-4.1 
MAGNESIUM-2.3
___ 09:30AM   TSH-3.1
___ 09:30AM   HCG-<5
___ 09:30AM   CRP-1.0
___ 09:30AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 09:30AM URINE  HOURS-RANDOM
___ 09:30AM URINE  UCG-NEGATIVE
___ 09:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:30AM   WBC-13.2* RBC-4.84 HGB-15.6 HCT-46.0* MCV-95 
MCH-32.2* MCHC-33.9 RDW-11.8 RDWSD-40.3
___ 09:30AM   NEUTS-80.0* LYMPHS-13.7* MONOS-5.0 EOS-0.2* 
BASOS-0.6 IM ___ AbsNeut-10.55* AbsLymp-1.80 AbsMono-0.66 
AbsEos-0.03* AbsBaso-0.08
___ 09:30AM   PLT COUNT-299
___ 09:30AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 09:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___  Normal brain MRI.  No evidence of an 
infectious/inflammatory process. 
___ Head CT No acute intracranial process.  Please note 
that MRI is more sensitive in detecting signs on encephalitis. 
___ No acute cardiopulmonary findings. 

___: NMDA receptor antibody test- Negative for Anti-NR1 
antibodies (reported on ___.

  

Test                          Result              Reference 
Range/Units
SED RATE BY MODIFIED          2                   < OR = 20 mm/h
___              

___ 07:05AM BLOOD WBC-14.2* RBC-4.75 Hgb-15.4 Hct-45.7* 
MCV-96 MCH-32.4* MCHC-33.7 RDW-12.1 RDWSD-41.8 Plt ___
___ 09:30AM BLOOD Neuts-80.0* Lymphs-13.7* Monos-5.0 
Eos-0.2* Baso-0.6 Im ___ AbsNeut-10.55* AbsLymp-1.80 
AbsMono-0.66 AbsEos-0.03* AbsBaso-0.08
___ 07:05AM BLOOD Glucose-98 UreaN-10 Creat-0.8 Na-138 
K-4.1 Cl-98 HCO3-25 AnGap-15
___ 07:05AM BLOOD ALT-12 AST-13 AlkPhos-61 TotBili-0.8
___ 07:05AM BLOOD Calcium-9.8 Phos-3.3 Mg-2.3 Cholest-169
___ 07:05AM BLOOD %HbA1c-5.0 eAG-97
___ 07:05AM BLOOD Triglyc-102 HDL-56 CHOL/HD-3.0 LDLcalc-93
___ 09:30AM BLOOD TSH-3.1
___ 09:30AM BLOOD HCG-<5
___ 09:30AM BLOOD CRP-1.0
___ 11:20PM BLOOD HIV Ab-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. However, she also signed three day 
notice requesting to be discharged as soon as possible. 

2. PSYCHIATRIC:

1) pt presented with paranoid ideation and ideas of reference 
regarding being follow by security personal both in ___ and 
in the ___ after r/o of organic causes of psychosis
2) pt presented acutely psychotic in the setting of recent life 
stressors 
3) pt offered antipsychotic medication which she refused; 
offered Ativan and hydroxazine for anxiety, which patient took 
4) Pt's psychosis and anxiety improved. Pt was able to get at 
least ___ hours of sleep per night and interact with staff 
appropriately. At discharge, pt denied any paranoid thoughts or 
ideas of references, affect was mostly appropriate, although 
some irritability and restricted affect remained 
5) Pt referred to Arbour PHP and recommended to f/u with PCP 
within two weeks of discharge

Considering negataive psychiatric history and subacute change. 
Pt was evaluated by neurology consult team. Extensive medical 
work up was non revealing (including CSF, labs, and imaging). Pt 
had elevated WBC but no source of infection and unremarkable 
ESR.

3. SUBSTANCE USE DISORDERS:
#) Pt has history of occasional binge drinking with blackouts. 
Pt counseled regarding cessation of alcohol use in the setting 
of recent exacerbation of anxiety and psychosis. Pt counseled 
that alcohol use is damaging to general health, including sleep 
and mood.   

4. MEDICAL
#)Pt experienced post-LP nausea, vomiting and headache. Pt was 
given Tylenol and Zofran PRN for symptoms which improved by time 
of discharge. N/v resolved prior to d/c and headache was ___ 
at ___.   

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. Pt avoided interaction with 
other patients but was friendly and appropriate with staff.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Family meeting with mother and boyfriend corroborate concerns 
regarding psychosis both prior to and during admission. 
Collateral from pt's sister also corroborated pt's paranoid 
ideation and disorientation. Pt was reluctant to engage in any 
outpatient treatment, but family meeting resulted in plan to 
discharge patient to PRP with persuasion of mother and 
boyfriend. 

#) INTERVENTIONS
- Medications: Ativan 0.5q8 PRN; hydroxazine 25 mg q 6 PRN
- Psychotherapeutic Interventions: OT
- Coordination of aftercare: referral to ___ PHP
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
encouraged to engage in PH
-Guardianships: n/a

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Abilify, Ativan and Hydroxazine, and benefits of 
possible alternatives, including not taking the medication, with 
this patient. We discussed the patient's right to decide whether 
to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team.  The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS

On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself based upon her acute 
psychosis, including paranoid ideation, ideas of reference and 
disorientation. Her static factors noted at that time included 
history of risky alcohol use and Caucasian race. The modifiable 
risk factors were also addressed at that time, including stress 
surrounding her bar exam results and   travel with time zone 
changes. Finally, the patient is being discharged with many 
protective risk factors, including involved and supportive 
family and significant other, future orientation regarding 
upcoming job, lack of SI or history of SI, and coping mechanisms 
such as stress relief through exercise Overall, the patient is 
not at an acutely elevated risk of self-harm nor danger to 
others due to acutely decompensated psychiatric illness. 

MODIFIABLE RISK FACTORS
resolving psychosis, minimization of symptoms 

PROTECTIVE RISK FACTORS
help-seeking nature, future-oriented viewpoint, life 
satisfaction, reality testing ability, good coping skills, good 
problem-solving skills, lack of suicidal ideation, no history of 
substance use disorder and strong social supports.  Thus, I feel 
the patient meets discharge criteria.  
 
Medications on Admission:
ARIPiprazole 2 mg PO/NG QHS psychosis (ordered but not taken)
Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever
Milk of Magnesia 30 ml PO Q8H:PRN Constipation - First Line
Aluminum-Magnesium Hydrox.-Simethicone 30 ml PO Q4H:PRN upset
stomach 
Ativan 0.5 mg PO/NG Q8H:PRN anxiety
Ibuprofen 800 mg PO Q8H:PRN Pain - Mild
 
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  HydrOXYzine 25 mg PO Q6H:PRN anxiety 
RX *hydroxyzine HCl 25 mg one tablet by mouth every six (6) 
hours Disp #*20 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Brief Psychotic Episode

 
Discharge Condition:
Mental Status: Clear and coherent. 
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

Pt says her mood is good and that she is looking forward to 
going home. Denies ideas of reference and SI. She reported 
looking forward to starting her job and physical activity. 

Pt reported that her headaches are improving. ___ today and 
denied any n/v/  fevers, chills, constipation, diarrhea.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid excessive alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___